US04028383
Ethyl 4,5-dihydro-5-methyl-4-oxopyrano[3,2-b]-indole-2-carboxylate.
To a solution of 6.0 g (0.26 mole) of sodium metal in 600 ml ab. ethanol was added 18.0 g (0.095 mole) of 3-hydroxy-1-methyl-1H-indol-2-yl methyl ketone, followed by 37.6 g (0.26 mole) of diethyl oxalate, added over 10 min. The mixture was stirred and heated at reflux for 17 hours, cooled and the red di-sodium salt was filtered and washed with cold hexane. The crude salt was added to a solution of 28 ml conc. HCl and 120 ml ab. ethanol, heated at reflux for 30 min., and the mixture was filtered while hot. Cooling the filtrate gave the crude product, which was filtered and then dissolved in 400 ml of chloroform. The chloroform solution was washed 3 times with dilute aqueous NaHCO3, 1 time with water, dried (MgSO4) and evaporated to leave a grey residue. Recrystallization from 15% CHCl3 in hexane gave yellow needles of mpt. 160°-162°.

reactant | sodium | 0.26 mole, 6.0 g | [Na] | Na
reactant | 3-hydroxy-1-methyl-1H-indol-2-yl methyl ketone | 0.095 mole, 18.0 g | CC(=O)C=1N(C2=CC=CC=C2C1O)C | C11H11NO2
reactant | diethyl oxalate | 0.26 mole, 37.6 g | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | ethanol | C(C)O | C2H6O
product | Ethyl 4,5-dihydro-5-methyl-4-oxopyrano[3,2-b]-indole-2-carboxylate | CN1C2=C(C=3C=CC=CC13)OC(=CC2=O)C(=O)OCC | C15H13NO4
